US07384952B2
To a solution of ethyl 3,4-dihydroxybenzoate (500 mg), N,N-dimethylethanol-amine (565 μL), and triphenylphosphine (1.51 g) in methylene chloride (20 mL) is added dropwise diisopropyl azodicarboxylate (1.37 mL) under argon gas atmosphere and ice-cooling. The mixture is stirred at room temperature for 1 day. The reaction mixture is diluted with ethyl acetate, washed with water and treated with 10% HCl to transfer basic materials in ethyl acetate layer to the aqueous layer. The aqueous layer is neutralized with saturated aqueous sodium hydrogencarbonate and extracted with chloroform/methanol/tetrahydrofuran (4:1:1, ×2). The extract is dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is purified by flash column chromatography on NH-silica gel (Solvent; n-hexane:ethyl acetate=1:1→chloroform:methanol=19:1) to give ethyl 4-[2-(dimethylamino)ethoxy]-3-hydroxy-benzoate (240 mg, yield; 35%) as oil. MS (APCI) m/z; 254 [M+H]+

reactant | ethyl 3,4-dihydroxybenzoate | 500 mg | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
reactant | N,N-dimethylethanol-amine | 565 μL | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | 1.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.37 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[2-(dimethylamino)ethoxy]-3-hydroxy-benzoate | 240 mg, yield; 35% | CN(CCOC1=C(C=C(C(=O)OCC)C=C1)O)C | C13H19NO4
